US07420055B2
Synthesis of N-[4-Bromo-2-(pyridine-4-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according the general procedure for the synthesis of N-aryl-benzenesulfonamides using (2-Amino-5-bromo-phenyl)-pyridin-4-yl-methanone and 4-oxazol-5-yl-benzenesulfonyl chloride and purified by HPLC. MS: m/z 485 (M++1).

reactant | (2-Amino-5-bromo-phenyl)-pyridin-4-yl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=NC=C1 | C12H9BrN2O
reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
product | N-[4-Bromo-2-(pyridine-4-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide | BrC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1)C(=O)C1=CC=NC=C1 | C21H14BrN3O4S
